US09034880B2
Preparation of 8-Chloro-5-[2-(4-methoxy-phenyl)-ethyl]-2-methyl-2,3,4,5-tetrahydro-1H pyrido[4,3-b]indole (Compound 336)
8-Chloro-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.22 g, 0.001 mol) was dissolved in N-methyl 2-pyrolidone (3.0 mL). Powdered potassium hydroxide (0.224 g, 0.004 mol) was added and heated at 100 deg C. for 3 h. 1-(2-Bromo-ethyl)-4-methoxy-benzene (0.214 g, 0.001 mol) was added at the same temperature and stir for 6 h. at RT. Reaction mixture was diluted with water (30 mL) and extracted with ethyl acetate (3×50 mL). Organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure using rotary evaporator. The crude was purified through column chromatography (4% MeOH:DCM in silica 100-200 mesh, Diameter of column—2.5 cm, Height of silica—approx. 5 inch) to provide the desired compound as light yellow oil (0.02 g, 6% yield). 8-Chloro-5-[2-(4-methoxy-phenyl)-ethyl]-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.020 g, 0.0564 mol) was dissolved in THF (1.0 mL), A solution of oxalic acid dihydrate (0.007 g, 0.0564 mol) in 1.5 mL THF was added and stirred for 30 min at RT. The precipitate was filtered and dried to give oxalate salt as white solid (0.01 g, 40% yield).

reactant | 8-Chloro-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.001 mol, 0.22 g | ClC1=CC=2C3=C(NC2C=C1)CCN(C3)C | C12H13ClN2
reactant | potassium hydroxide | 0.004 mol, 0.224 g | [OH-].[K+]
reactant | 1-(2-Bromo-ethyl)-4-methoxy-benzene | 0.001 mol, 0.214 g | BrCCC1=CC=C(C=C1)OC | C9H11BrO
solvent | N-methyl 2-pyrolidone | 3.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 30 mL | O | H2O
product | 8-Chloro-5-[2-(4-methoxy-phenyl)-ethyl]-2-methyl-2,3,4,5-tetrahydro-1H pyrido[4,3-b]indole | 0.02 g, 6% yield | ClC1=CC=2C3=C(N(C2C=C1)CCC1=CC=C(C=C1)OC)CCN(C3)C | C21H23ClN2O
